US04859229
using 3-[4-chloro-2-fluoro-5-(2-hydroxyethoxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione and ethyl chloroformate with pyridine in diethyl ether there is obtained 2-[2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenoxy]-ethyl ethyl carbonate, 1H-NMR (CDCl3, 400 MHz): 7.32 ppm (d,1H), 6.81 ppm (d,1H), 6.36 ppm (s,1H), 4.47°-4.54 ppm (m,2H), 4.16°-4.27 ppm (m,4H), 3.56 ppm (d,3H), 1.32 ppm (t,3H);

reactant | 3-[4-chloro-2-fluoro-5-(2-hydroxyethoxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OCCO)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H11ClF4N2O4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenoxy]-ethyl ethyl carbonate | C(OCCOC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)(OCC)=O | C17H15ClF4N2O6
